US04163784
Isonicotinoyl Urea
Urea (7.5 g., 0.125 mole) is suspended in liquid ammonia (250 ml.) in a round bottom flask fitted with an acetone/dry-ice condenser. Sodium pellets (2.9 g., 0.125 mole) are added and, after they have dissolved, methyl isonicotinate (12 g., 0.089 mole) is added to the mixture. The ammonia is allowed to evaporate from the mixture overnight. The yellow-tan residue is dissolved in water (150 ml.), the pH of the mixture adjusted to 5.5 with glacial acetic acid, and the precipitate which forms filtered, washed with water and air dired. It is then washed with hexane and triturated with boiling methanol. The white solid (isonicotinic acid) is removed by filtration and the filtrate evaporated to dryness to give the title product as a yellowish solid: m.p. 245°-247° C. Quantitative analysis and infra-red data are consistent with the values expected for the product.

reactant | Urea | 0.125 mole, 7.5 g | NC(=O)N | CH4N2O
reactant | Sodium | [Na] | Na
reactant | methyl isonicotinate | 0.089 mole, 12 g | C(C1=CC=NC=C1)(=O)OC | C7H7NO2
solvent | ammonia | 250 ml | N | H3N
product | Isonicotinoyl Urea | C(C1=CC=NC=C1)(=O)NC(=O)N | C7H7N3O2
